US09290468B2
Step 11: 4-fluoro-5-((2-fluoro-4-iodophenyl)amino)-N-(2-hydroxyethoxy)benzo[d][1,2,3]thiadiazole-6-carboxamide
To a solution of 4-fluoro-5-((2-fluoro-4-iodophenyl)amino)-N-(2-(vinyloxy)ethoxy)benzo[d][1,2,3]thiadiazole-6-carboxamide (190 mg, 0.37 mmol) in CH2Cl2 (10 mL) was added 1.0 N HCl (aq., 1.5 mL, 1.5 mmol). After stirring for 1 h, the reaction mixture was neutralized with saturated NaHCO3 (aq.). The aqueous layer was washed with CH2Cl2 (10 mL×2). The combined organic layer was washed with water (30 mL) and brine (30 mL), dried over Na2SO4, filtered and concentrated in vacuo. The crude product was purified by column chromatography on silica gel (CH2Cl2/MeOH, 20:1, v/v) and gave the desired product as a yellow solid (154 mg, 84.6% yield). 1H NMR (400 MHz, DMSO-d6): δ 11.88 (s, 1H), 8.65 (s, 1H), 8.52 (s, 1H), 7.36 (d, 1H), 7.25 (d, 1H), 6.42 (d, 1H), 4.69 (m, 1H), 4.05 (m, 2H), 3.80 (m, 2H). MS APCI (+) m/z: m/z 493.2, [M+H].

reactant | 4-fluoro-5-((2-fluoro-4-iodophenyl)amino)-N-(2-(vinyloxy)ethoxy)benzo[d][1,2,3]thiadiazole-6-carboxamide | 0.37 mmol, 190 mg | FC1=C(C(=CC2=C1N=NS2)C(=O)NOCCOC=C)NC2=C(C=C(C=C2)I)F | C17H13F2IN4O3S
reactant | HCl | 1.5 mmol, 1.0 N, 1.5 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-fluoro-5-((2-fluoro-4-iodophenyl)amino)-N-(2-hydroxyethoxy)benzo[d][1,2,3]thiadiazole-6-carboxamide | 154 mg, 84.6% yield | FC1=C(C(=CC2=C1N=NS2)C(=O)NOCCO)NC2=C(C=C(C=C2)I)F | C15H11F2IN4O3S
